US08039460B2
Step A: (6S,9R)-6-(2,3-Difluorophenyl)-3-(tetrahydrofuran-3-yl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine
Hydrochloric acid (4.0 M in dioxane; 3 mL, 12.0 mmol) was added to a solution of tert-butyl [(6S,9R)-6-(2,3-difluorophenyl)-3-(tetrahydrofuran-3-yl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate (113 mg, 0.261 mmol) in 1,4-dioxane (3 mL). After 2.5 h, the reaction was concentrated to give the title compound as a bis hydrochloride salt (117 mg). MS 334.2 (M+1).

reactant | Hydrochloric acid | 12.0 mmol, 4.0 M, 3 mL | Cl | ClH
reactant | tert-butyl [(6S,9R)-6-(2,3-difluorophenyl)-3-(tetrahydrofuran-3-yl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate | 0.261 mmol, 113 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C2COCC2)NC(OC(C)(C)C)=O | C23H29F2N3O3
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (6S,9R)-6-(2,3-Difluorophenyl)-3-(tetrahydrofuran-3-yl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C2COCC2)N | C18H21F2N3O
